Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Percocet / Unasyn
 
Attending: ___.
 
Chief Complaint:
nonhealing left foot ulcers, preadmission for BKA
 
Major Surgical or Invasive Procedure:
Left below-knee amputation, closed.

 
History of Present Illness:
___ with hx of bypasses and BKA on right, as well as L CIA 
stent/L SFA PTA/R EIA stent who has had active cellulitis and 
nonhealing left foot ulcers. He has been opposed to previous 
hospitalization for treatment and though has agreed to BKA, has 
not wanted to come into the hospital for pre admission for 
antibiotics/medical optimization. He left ___ ___ 
AMA. He presents to the ED now for preadmission. He reports 
right stump pain, left "sciatic" pain, but says he is otherwise 
comfortable. He notes that the ulcers on his feet are worse. 
 
Past Medical History:
PMH:
CKD, DM, proteinuria, PNA, HTN, PVD, hyperlipidemia, back pain

PSH: R BKA ___, Rt fem-BK pop bypass graft ___. Angioplasty of
outflow stenosis at the distal anastomosis in ___. 5-graft
occluded, 
criticial right common fem occlusion, ABI 0.3     
 

 
Social History:
___
Family History:
significant for diabetes. 
 
Physical Exam:
VS: 98.4, 75, 148/68, 18, 96% RA 
Gen: NAD
CV: RRR
Pulm: CTA
Abd: soft, nondistended, nontender
Ext: R BKA stump well-healed. L BKA stump clean, dry and intact. 
 
Pulses: R d/d/BKA; L d/BKA
 
Pertinent Results:
___ 09:05PM URINE  HOURS-RANDOM
___ 09:05PM URINE  OSMOLAL-375
___ 09:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:05PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:05PM URINE  RBC-<1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:05PM URINE  AMORPH-OCC
___ 08:37PM   WBC-16.0* RBC-3.55* HGB-9.9* HCT-29.2* MCV-82 
MCH-28.0 MCHC-34.1 RDW-13.0
___ 08:37PM   PLT COUNT-279
___ 08:10PM   GLUCOSE-115* UREA N-82* CREAT-4.5* SODIUM-142 
POTASSIUM-3.2* CHLORIDE-103 TOTAL CO2-25 ANION GAP-17
___ 08:10PM   CALCIUM-8.7 PHOSPHATE-2.8# MAGNESIUM-2.4
___ 03:16PM   ___ PO2-28* PCO2-50* PH-7.34* TOTAL 
CO2-28 BASE XS--1 INTUBATED-NOT INTUBA
___ 03:16PM   O2 SAT-47
___ 03:03PM   GLUCOSE-553* UREA N-79* CREAT-4.2* SODIUM-135 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-24 ANION GAP-17
___ 10:35AM   ___ PO2-39* PCO2-42 PH-7.35 TOTAL CO2-24 
BASE XS--2 INTUBATED-NOT INTUBA
___ 10:35AM   O2 SAT-70
___ 06:57AM   ___
___ 06:57AM   LACTATE-1.7
___ 06:50AM   GLUCOSE-712* UREA N-79* CREAT-4.4*# 
SODIUM-129* POTASSIUM-4.2 CHLORIDE-93* TOTAL CO2-18* ANION 
GAP-22*
___ 06:50AM   estGFR-Using this
___ 06:50AM   WBC-19.0*# RBC-3.44* HGB-9.9* HCT-30.1* 
MCV-87 MCH-28.8 MCHC-32.9 RDW-13.1
___ 06:50AM   NEUTS-88.2* LYMPHS-6.6* MONOS-4.2 EOS-0.9 
BASOS-0.2
___ 06:50AM   PLT COUNT-228
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with nonhealing left foot 
ulcers who is presenting for a planned BKA and who was admitted 
to the ___ on ___. He 
presented to the Emergency Department with severe left foot 
clinical osteomyelitis and due to elevated blood sugars (700s) 
was admitted to the ICU for insulin drip, IV hydration, Vanc, 
cipro and flagyl antibiotics and closer monitoring of his 
status. On HD 2 he was transferred to the floor with improved 
blood sugars in the 100-200 range. He was switched to 
vanc/meropenem on ___. ___ diabetic service was consulted 
and recommended a plan was to transition him to usual insulin 
program with Levemir 26 at hs and SS novolog at meals and for ___ 
coverage. The patient was taken to the operating room on 
___ for a Left below-knee amputation. For details of the 
procedure, please see the surgeon's operative note. The patient 
tolerated the procedure well without complications and was 
brought to the post-anesthesia care unit in stable condition. 
After a brief stay, the patient was transferred to the vascular 
surgery floor where he remained through the rest of the 
hospitalization. 

Post-operatively, continued with IV antibiotics with an adequate 
response. He remained afebrile, and his stump looked clean, dry, 
intact. He was able to tolerate a regular diet, work with our 
physical therapist. He failed a void trial x2  requiring a 
catheter replacement on ___. He would need a follow up with 
urology as an outpatient for void trial. His pain was controlled 
on oral medications alone. He was deemed ready for discharge, 
and was given the appropriate discharge and follow-up 
instructions.

 

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Gabapentin 900 mg PO DAILY 
4. Glargine 26 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
5. Metoprolol Tartrate 50 mg PO TID 
6. Tamsulosin 0.4 mg PO QHS 
7. Torsemide 30 mg PO DAILY 

 
Discharge Medications:
1. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*15 Capsule Refills:*0
5. Gabapentin 900 mg PO DAILY 
6. Glargine 26 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
7. Metoclopramide 5 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tablet by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0
8. Metoprolol Tartrate 50 mg PO TID 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
10. Tamsulosin 0.4 mg PO QHS 
11. Torsemide 30 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left lower extremity gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent a left below-knee amputation. You have now recovered 
from surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

ACTIVITY: 
• On the side of your amputation you are non weight bearing for 
___ weeks. 
• You should keep this amputation site elevated when ever 
possible. 
• You may use the opposite foot for transfers and pivots.
• No driving until cleared by your Surgeon.
• No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
• You may shower when you get home
• No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 

WOUND CARE:
• Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
• When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

CAUTIONS:
• If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
• Bleeding, redness of, or drainage from your foot wound
• New pain, numbness or discoloration of the skin on the 
effected foot
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

 
Followup Instructions:
___